US03950376
5-Amino-3-benzylthio-4-phenylthiobenzoic acid
5-Amino-3-mercapto-4-phenylthiobenzoic acid (1.6 g) is dissolved in 1 N sodium hydrogen carbonate (50 ml), and after addition of benzyl bromide (0.7 ml), the reaction mixture is stirred for 20 hours. The resulting suspension of the sodium salt of the reaction product is adjusted to pH 2 by addition of 4 N hydrochloric acid. The precipitated 5-amino-3-benzylthio-4-phenylthiobenzoic acid is collected by filtration and recrystallized from aqueous ethanol to yield the compound with a melting point of 170.5°-172° C.

reactant | 5-Amino-3-mercapto-4-phenylthiobenzoic acid | 1.6 g | NC=1C(=C(C=C(C(=S)O)C1)S)C1=CC=CC=C1 | C13H11NOS2
reactant | benzyl bromide | 0.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | sodium hydrogen carbonate | 1 N, 50 ml | C(O)([O-])=O.[Na+]
product | 5-Amino-3-benzylthio-4-phenylthiobenzoic acid | NC=1C(=C(C=C(C(=S)O)C1)SCC1=CC=CC=C1)C1=CC=CC=C1 | C20H17NOS2
